US05210092
A mixture of 1-(4-ethoxycarbonylphenyl)-4-vinylpyrrole- 2-carbonitrile (1.59 g) and lithium borohydride (78.4 mg) in tetrahydrofuran (30 ml) was refluxed for 3 hours. To the pale green solution was added lithium borohydride (78.4 mg) and the mixture was refluxed for 3 hours. The cooled mixture was quenched with saturated aqueous ammonium chloride solution and diethyl ether was added. The separated organic layer was washed with saturated aqueous ammonium chloride solution, dried, and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel eluted by 2% methanol in dichloromethane to yield 1-(4-hydroxymethylphenyl)-4-vinylpyrrole-2-carbonitrile (910 mg) as a white solid.

reactant | 1-(4-ethoxycarbonylphenyl)-4-vinylpyrrole- 2-carbonitrile | 1.59 g | C(C)OC(=O)C1=CC=C(C=C1)N1C(=CC(=C1)C=C)C#N | C16H14N2O2
reactant | lithium borohydride | 78.4 mg | [BH4-].[Li+]
reactant | lithium borohydride | 78.4 mg | [BH4-].[Li+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 1-(4-hydroxymethylphenyl)-4-vinylpyrrole-2-carbonitrile | 910 mg | OCC1=CC=C(C=C1)N1C(=CC(=C1)C=C)C#N | C14H12N2O
